US04284574
Bis(p-(3-butoxy-2-hydroxypropyloxy)phenyl)sulphone
4,4'-Dihydroxydiphenyl sulphone (125.0 g; 0.5 mole), butyl glycidyl ether of epoxide content 7.45 equiv./kg (134.2 g; 1 equiv.), and benzyltrimethylammonium chloride (1.0 g) were stirred together and heated at 100° C. for 1 hour, at 120° C. for 2 hours, and then at 130° C. for 4 hours. The mixture was cooled, and was found to have an epoxide content of 0.03 equiv./kg, indicating that the reaction was substantially complete.

reactant | 4,4'-Dihydroxydiphenyl sulphone | 0.5 mole, 125.0 g | C1=CC(=CC=C1O)S(=O)(=O)C2=CC=C(C=C2)O | C12H10O4S
reactant | butyl glycidyl ether | C(C1CO1)OCCCC | C7H14O2
catalyst | benzyltrimethylammonium chloride | 1.0 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | Bis(p-(3-butoxy-2-hydroxypropyloxy)phenyl)sulphone | C(CCC)OCC(COC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)OCC(COCCCC)O)O | C26H38O8S
